US07285558B2
2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione
This compound was made following the procedure described above, starting with 6-hydrazino-1-isobutylpyrimidine-2,4(1H,3H)-dione, and condensing first with 6-chloroquinoline-4-carbaldehyde, followed by 1-methyl-2-pyrrolecarboxaldehyde. ES M+H+=488.

reactant | 6-hydrazino-1-isobutylpyrimidine-2,4(1H,3H)-dione | N(N)C1=CC(NC(N1CC(C)C)=O)=O | C8H14N4O2
reactant | 6-chloroquinoline-4-carbaldehyde | ClC=1C=C2C(=CC=NC2=CC1)C=O | C10H6ClNO
reactant | 1-methyl-2-pyrrolecarboxaldehyde | CN1C(=CC=C1)C=O | C6H7NO
product | 2-[(6-chloroquinolin-4-yl)methyl]-7-isobutyl-3-(1-methyl-1H-pyrrol-2-yl)-2H-pyrazolo[3,4-d]pyrimidine-4,6(5H,7H)-dione | ClC=1C=C2C(=CC=NC2=CC1)CN1N=C2N(C(NC(C2=C1C=1N(C=CC1)C)=O)=O)CC(C)C | C24H23ClN6O2
